US07781431B2
Step 5: methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.1 M) of methyl 6-cyclohex-1-en-1-yl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in TFA at 0° C. was treated with triethylsilane (1.5 eq.). The reaction mixture was stirred at 0° C. for 1 h then solvent was evaporated to give the title compound (95%) as a solid.

reactant | methyl 6-cyclohex-1-en-1-yl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | C1(=CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H19NO2S
reactant | triethylsilane | 1.5 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 95% | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H21NO2S
